US05525619
5-[4-(4,4,4-trifluorobutoxy)phenyl]-3-methoxyethyl-1,3,4-oxadiazol-2(3H)-one
1.8 g of 5-[4-(4,4,4-trifluorobutoxy)phenyl]-1,3,4-oxadiazol-2(3H)-one, 0.77 g of 2-chloroethyl methyl ether and a solution of 2.15 g of potassium carbonate in 20 ml of dimethylformamide are introduced into a 25 ml three-necked flask. The mixture is heated to 100° C. for 1 h 45 min and is then cooled and poured into 100 ml of water. The precipitate formed is drained, washed with 3 times 50 ml of water and then dissolved in ethyl acetate. The solution is dried over sodium sulphate and filtered, and the solvent is evaporated off. 1.8 g of product are obtained, which product is recrystallized in 10 ml of 96 % ethanol. 1.5 g of product are finally obtained.

reactant | 5-[4-(4,4,4-trifluorobutoxy)phenyl]-1,3,4-oxadiazol-2(3H)-one | 1.8 g | FC(CCCOC1=CC=C(C=C1)C1=NNC(O1)=O)(F)F | C12H11F3N2O3
reactant | 2-chloroethyl methyl ether | 0.77 g | COCCCl | C3H7ClO
reactant | potassium carbonate | 2.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-[4-(4,4,4-trifluorobutoxy)phenyl]-3-methoxyethyl-1,3,4-oxadiazol-2(3H)-one | 1.8 g | FC(CCCOC1=CC=C(C=C1)C1=NN(C(O1)=O)CCOC)(F)F | C15H17F3N2O4
